US04738968
7-(cis-3-Aminomethyl-4-chloro-1-pyrrolidinyl)1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride was suspended in absolute ethanol. Sulfuric acid was added to the suspension and the mixture was refluxed for 15 hours with stirring. After evaporation of ethanol, chloroform and a 20% aqueous sodium hydroxide solution were added to the residue, and the mixture was adjusted to pH 9. The organic layer was separated and chloroform was evaporated under reduced pressure. The resulting crystals were collected by filtration to give ethyl 7-(cis-3-aminomethyl-4-chloro-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate, m.p. 163°-167° C.

reactant | 7-(cis-3-Aminomethyl-4-chloro-1-pyrrolidinyl)1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride | Cl.NC[C@@H]1CN(C[C@@H]1Cl)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F
reactant | Sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | ethyl 7-(cis-3-aminomethyl-4-chloro-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | NC[C@@H]1CN(C[C@@H]1Cl)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)OCC)=O)F | C19H22ClFN4O3
